US06274735B1
reacting (3R,4R)-4-(4-benzyloxy-phenyl)-1-((R)-1-phenyl-ethyl)-piperidin-3-ol hydrochloride with hydrogen to yield (3R,4R)-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrochloride;

reactant | (3R,4R)-4-(4-benzyloxy-phenyl)-1-((R)-1-phenyl-ethyl)-piperidin-3-ol hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]1[C@H](CN(CC1)[C@H](C)C1=CC=CC=C1)O
reactant | hydrogen | [H][H] | H2
product | (3R,4R)-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrochloride | Cl.OC1=CC=C(C=C1)[C@@H]1[C@H](CNCC1)O | InChI=1S/C11H15NO2.ClH/c13-9-3-1-8(2-4-9)10-5-6-12-7-11(10)14;/h1-4,10-14H,5-7H2;1H/t10-,11+;/m1./s1
